US08497263B2
4-(2,2-dimethoxypropionoyl)-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-5-(2-methoxyphenyl)-1,5-dihydropyrrol-2-one (0.08 g, 0.17 mmol) was added with acetic acid (0.1 mL) and water (0.9 mL). The mixture was stirred at 95° C. for 15 min. Then, water was added, the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was crystallized from dichloromethane and ether to give 4-(1,2-dioxopropyl)-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-5-(2-methoxyphenyl)-1,5-dihydropyrrol-2-one (0.05 g, 70%) as yellow crystals.

reactant | 4-(2,2-dimethoxypropionoyl)-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-5-(2-methoxyphenyl)-1,5-dihydropyrrol-2-one | 0.17 mmol, 0.08 g | COC(C(=O)C1=C(C(N(C1C1=C(C=CC=C1)OC)C1=CC=C(C=C1)C1=NOC=C1)=O)O)(C)OC | C25H24N2O7
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | water | 0.9 mL | O | H2O
product | 4-(1,2-dioxopropyl)-3-hydroxy-1-(4-isoxazol-3-ylphenyl)-5-(2-methoxyphenyl)-1,5-dihydropyrrol-2-one | 0.05 g, 70% | O=C(C(C)=O)C1=C(C(N(C1C1=C(C=CC=C1)OC)C1=CC=C(C=C1)C1=NOC=C1)=O)O | C23H18N2O6
